US05037825
2.9 g of a 50% suspension of sodium hydride in mineral oil were suspended in 30 ml of dimethylformamide after two-fold washing with pentane and treated dropwise at room temperature with a solution of 17.3 g of diethyl (4-carbethoxybenzyl)phosphonate in 50 ml of dimethylformamide. After stirring at room temperature for 1 hour, a solution of 5 g of 1,2,3,4-tetrahydro-1,4,4-trimethyl-7-quinolinyl methyl ketone in 50 ml of dimethylformamide was added dropwise thereto. The reaction mixture was heated to 50° C. for 1 hour, poured on to ice/water and extracted with ethyl acetate. The brownish oil obtained after drying and evaporation of the organic phase was chromatographed (silica gel, eluting agent hexane/ethyl acetate=9:1) and gave 4.2 g of ethyl p-[2-(1,2,3,4-tetrahydro-1,4,4-trimethyl-7-quinolinyl)propenyl]benzoate as a slightly yellow, viscous oil.

reactant | sodium hydride | [H-].[Na+]
reactant | pentane | CCCCC | C5H12
reactant | diethyl (4-carbethoxybenzyl)phosphonate | 17.3 g | C(=O)(OCC)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C14H21O5P
reactant | 1,2,3,4-tetrahydro-1,4,4-trimethyl-7-quinolinyl methyl ketone | 5 g | CC(=O)C1=CC=C2C(CCN(C2=C1)C)(C)C | C14H19NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl p-[2-(1,2,3,4-tetrahydro-1,4,4-trimethyl-7-quinolinyl)propenyl]benzoate | 4.2 g | CN1CCC(C2=CC=C(C=C12)C(=CC1=CC=C(C(=O)OCC)C=C1)C)(C)C | C24H29NO2
